US07615555B2
Preparation of 3-piperidin-4-yl-3H-imidazo[4,5-c]pyridine
To a solution of tert-butyl 4-(3H-imidazo[4,5-c]pyridine-3-yl)piperidine-1-carboxylate (1.12 g) in 1,4 dioxan (10 ml) was added 4M hydrochloric acid in dioxin (10 ml) and the resulting mixture was stirred for 3 hours. Diethyl ether (30 ml) was added and the mixture was filtered and washed with diethyl ether (50 ml) to give the title compound which was used without further purification. Yield 1.1 g. NMR (d6 DMSO) 2.35 (m, 2H), 2.5 (m, 2H), 3.1 (m, 2H), 3.5 (m, 2H), 5.05 (m, 1H), 8.3 (d, 1H), 8.65 (d, 1H), 9.3 (bd, 2H), 9.9 (s, 1H).

reactant | tert-butyl 4-(3H-imidazo[4,5-c]pyridine-3-yl)piperidine-1-carboxylate | 1.12 g | N1=CN(C=2C=NC=CC21)C2CCN(CC2)C(=O)OC(C)(C)C | C16H22N4O2
reactant | hydrochloric acid | 4M | Cl | ClH
reactant | Diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | 1,4 dioxan | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxin | 10 ml | O1C=COC=C1 | C4H4O2
product | 3-piperidin-4-yl-3H-imidazo[4,5-c]pyridine | N1CCC(CC1)N1C=NC2=C1C=NC=C2 | C11H14N4
